US04141901
A solution of 3-[Nα -(2-phthalimidoacetyl)-glycylamino]-4-hydroxy-4-phenyl-6-chloro-3,4-dihydroquinazoline (0.7 g) in acetic acid (5 ml) is refluxed with heating for 2.5 hours. The reaction mixture is evaporated under reduced pressure, and the residue is dissolved in ethyl acetate. The ethyl acetate layer is washed with saturated aqueous sodium bicarbonate and water in order, dried over sodium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is chromatographed on a column of silica gel, which is eluted with ethyl acetate-methanol (20:1) to give 5-chloro-2-[3-(2-phthalimidoacetamidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone as crystals melting at 214° to 215° C.

reactant | 3-[Nα -(2-phthalimidoacetyl)-glycylamino]-4-hydroxy-4-phenyl-6-chloro-3,4-dihydroquinazoline | 0.7 g | C1(C=2C(C(N1CC(=O)NCC(=O)NN1C=NC3=CC=C(C=C3C1(C1=CC=CC=C1)O)Cl)=O)=CC=CC2)=O | C26H20ClN5O5
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-2-[3-(2-phthalimidoacetamidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1)CNC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C26H18ClN5O4
